US07598383B2
Step C: Preparation of 4-(2-fluoro-4-methylphenylamino)-1,2,5-trimethyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid ethyl ester:
2-Fluoro-4-methylphenylamine (0.259 g, 2.07 mmol), palladium (II) acetate (0.046 g, 0.205 mmol), rac-2,2-bis(diphenylphosphino)-1,1′-binaphthyl (0.192 g, 0.308 mmol), and cesium carbonate (1.00 g, 3.08 mmol) were added to a solution of 4-chloro-1,2,5-trimethyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid ethyl ester (0.50 g, 2.05 mmol) in toluene (7 mL) in a sealed vial. After stirring 10 minutes, the mixture was heated to 80° C. After 24 hours, the reaction mixture was cooled to room temperature and diluted with EtOAc. The resulting precipitate was filtered and washed with EtOAc. The filtrate was diluted with EtOAc and washed with water. The aqueous layer was reextracted with EtOAc. The combined organic layers were washed with brine, dried (Na2SO4) and concentrated. Purification by flash column chromatography (20:1 methylene chloride/MeOH) gave 0.048 g (71%) desired product.

reactant | 2-Fluoro-4-methylphenylamine | 2.07 mmol, 0.259 g | FC1=C(C=CC(=C1)C)N | C7H8FN
reactant | rac-2,2-bis(diphenylphosphino)-1,1′-binaphthyl | 0.308 mmol, 0.192 g | C1(=CC=CC=C1)P(C1(C(=C2C=CC=CC2=CC1)C1=CC=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H34P2
reactant | cesium carbonate | 3.08 mmol, 1.00 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-chloro-1,2,5-trimethyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid ethyl ester | 2.05 mmol, 0.50 g | C(C)OC(=O)C1=C(N(C(C(=C1Cl)C)=O)C)C | C11H14ClNO3
solvent | toluene | 7 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | palladium (II) acetate | 0.205 mmol, 0.046 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-(2-fluoro-4-methylphenylamino)-1,2,5-trimethyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid ethyl ester | 0.048 g, 71% | C(C)OC(=O)C1=C(N(C(C(=C1NC1=C(C=C(C=C1)C)F)C)=O)C)C | C18H21FN2O3
